US05294613
A. Preparation of 5-[4-acetyl-5-hydroxy-2-(2,3-epoxypropyl)phenoxy]pentanenitrile
To a solution of 5.46 % of 5-[4-acetyl-5-hydroxy-2-allylphenoxy]pentanenitrile in 100 ml of methylene chloride were added 6.1 % of 85% meta-chloroperbenzoic acid. After stirring for 5 hours, the reaction mixture was concentrated in vacuo. The residue was partitioned between ethyl acetate and a cold sodium bicarbonate solution. The organic layer was separated, dried over sodium sulfate, and concentrated in vacuo to approximately 35 ml. The solution was placed in a freezer overnight providing 4.08 g of the crystalline title product which were recovered by filtration, m.p. 86°-87° C.

reactant | 5-[4-acetyl-5-hydroxy-2-allylphenoxy]pentanenitrile | C(C)(=O)C1=CC(=C(OCCCCC#N)C=C1O)CC=C | C16H19NO3
reactant | meta-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-[4-acetyl-5-hydroxy-2-(2,3-epoxypropyl)phenoxy]pentanenitrile | 4.08 g | C(C)(=O)C1=CC(=C(OCCCCC#N)C=C1O)CC1CO1 | C16H19NO4
